US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(2-chloro-4-morpholin-4-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXX)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.00 mg, 0.1702 mmol), 2-Chloro-4-morpholin-4-yl-benzaldehyde (42.2 mg, 0.187 mmol), and Ammonium acetate (26.2 mg, 0.340 mmol) were reacted to produce 46.98 mg (45%) of the title compound. (300 MHz, DMSO-d6) 12.89 (s, 1H), 7.95 (s, 1H), 7.72 (m, 2H), 7.21 (s, 1H), 7.09 (m, 3H), 6.30 (s, 2H), 5.18 (t, J=17 Hz, 8.5 Hz, 1H), 3.75 (s, 4H), 3.27 (s, 4H), 2.87 (s, 1H), 2.78 (s, 1H), 2.58 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.38 (d, J=8 Hz). MS=499 (M+H), HPLC: 2.47 min. (G Method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.1702 mmol, 50.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 2-Chloro-4-morpholin-4-yl-benzaldehyde | 0.187 mmol, 42.2 mg | ClC1=C(C=O)C=CC(=C1)N1CCOCC1 | C11H12ClNO2
reactant | Ammonium acetate | 0.340 mmol, 26.2 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(2-chloro-4-morpholin-4-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 46.98 mg, 45% | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)N2CCOCC2)Cl)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C24H24Cl2N6O2
